US06455587B1
Preparation of Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(4-nitrocinnamoyl)-L-lysine (Compound No. 111)
Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine was reacted with 4-nitrocinnamic acid under the conditions described in example 86 to yield 49% of the desired product.

reactant | Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H25N3O6S
reactant | 4-nitrocinnamic acid | [N+](=O)([O-])C1=CC=C(C=CC(=O)O)C=C1 | C9H7NO4
product | Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(4-nitrocinnamoyl)-L-lysine | 49% | C(C(C)C)N([C@@H](CCCCNC(C=CC1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C25H30N4O9S
